US07517873B2
A mixture of 3.3 g (0.0093 mole) of (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(2,2-dimethyl-cyclopentyl)-amino]-propionic acid ethyl ester (IV-59) in 30 mL of ethyl acetate and 0.5 g of 5% palladium on carbon catalyst was stirred under an atmosphere of hydrogen until hydrogen uptake was complete. The mixture was filtered through a pad of Celite, washing the filter pad with dichloromethane. Concentration under reduced pressure gave 2.5 g of (rac)-3-[(5-amino-2-chloro-pyrimidin-4-yl)-(2,2-dimethyl-cyclopentyl)-amino]-propanoic acid ethyl ester (V-59). This material was used directly in the next step without further purification.

reactant | (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(2,2-dimethyl-cyclopentyl)-amino]-propionic acid ethyl ester | 0.0093 mole, 3.3 g | C(C)OC(CCN(C1C(CCC1)(C)C)C1=NC(=NC=C1[N+](=O)[O-])Cl)=O | C16H23ClN4O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | (rac)-3-[(5-amino-2-chloro-pyrimidin-4-yl)-(2,2-dimethyl-cyclopentyl)-amino]-propanoic acid ethyl ester | 2.5 g | C(C)OC(CCN(C1C(CCC1)(C)C)C1=NC(=NC=C1N)Cl)=O | C16H25ClN4O2
